US06248754B1
N-(8-Chloro-2-methanesulfonyl-1,2,3,4-tetrahydroisoquinolin -7-yl)-4-methoxy-3-trifluoromethylbenzamide
N-(8-Chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide (0.193 g) in dichloromethane (10 ml) containing triethylamine (0.055 ml) was treated with methanesulfonyl chloride ((0.063 g) and the mixture stirred for 48 h. Water was added and the organic phase separated and solvent removed at reduced pressure. The residue was triturated with diethyl ether to give the title compound (0.19 g).

reactant | N-(8-Chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.193 g | ClC=1C(=CC=C2CCNCC12)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C18H16ClF3N2O2
reactant | triethylamine | 0.055 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(8-Chloro-2-methanesulfonyl-1,2,3,4-tetrahydroisoquinolin -7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.19 g | ClC=1C(=CC=C2CCN(CC12)S(=O)(=O)C)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C19H18ClF3N2O4S
